### PR TITLE
chore(Data/Vector/Basic): remove defeq abuse

### PR DESCRIPTION
**Pull request by felixpernegger**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by jkandel1 — COMMENTED** [review]
Non-expert tech-debt/readability review: I looked through the one-file diff in `Mathlib/Data/Vector/Basic.lean`. The change seems tightly scoped: it preserves the declaration set, and the bot summary reports a decrease in strong technical debt by removing seven `backward.isDefEq.respectTransparency` uses.

I did not review every downstream consequence, but from the maintenance side the replacement proofs seem clearer than relying on local transparency overrides. In particular, using `Vector.exists_eq_cons` and then rewriting with `simp_rw` makes the vector decomposition explicit.

One small question: is this `obtain ⟨a, v', h⟩ := Vector.exists_eq_cons v` pattern the preferred way to avoid these transparency overrides in `Vector` proofs, or is there an even more standard simplification pattern for this file?

**Comment by joneugster** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/212a6c6d70b67bcf1fb4dde74694bc1e7c39d3e6?reference=0ee7df2241bfe98d50fd7e434b12ed24e5da648f) for 212a6c6d70b67bcf1fb4dde74694bc1e7c39d3e6 against 0ee7df2241bfe98d50fd7e434b12ed24e5da648f are in. No significant results found. @joneugster

> [!WARNING]
> These warnings may indicate that the benchmark results are not directly comparable, for example due to changes in the runner configuration or hardware.
>
> - Bench repo commit hashes for run main differ between commits.

- ✅ `build//instructions`: **-131.8G** (**-0.09%**)

No significant changes detected.

File: Mathlib/Data/Vector/Basic.lean [hunk 1]
```diff
@@ -117,23 +115,24 @@ theorem toList_pmap {p : α → Prop} (f : (a : α) → p a → β) (v : Vector
...
 
-set_option backward.isDefEq.respectTransparency false in
 @[simp]
 theorem tail_pmap {p : α → Prop} (f : (a : α) → p a → β) (v : Vector α (n + 1))
     (hp : ∀ x ∈ v.toList, p x) :
     (v.pmap f hp).tail = v.tail.pmap f (fun x hx ↦ hp _ <| by
-      rw [← cons_head_tail v, toList_cons, List.mem_cons]; exact .inr hx) := by
+      rw [← cons_head_tail v]
+      simp_rw [Nat.succ_eq_add_one, Nat.add_one_sub_one, toList_cons v.head, List.mem_cons]
+      exact .inr hx) := by
```
Comment (joneugster) [inline Mathlib/Data/Vector/Basic.lean:133]: I think it would be nice if this lemma would use `Vector.head_mem` from `Mathlib.Data.Vector.Mem`. That would mean moving the lemma to a different place.

```lean4
@[simp]
theorem head_pmap {p : α → Prop} (f : (a : α) → p a → β) (v : Vector α (n + 1))
    (hp : ∀ x ∈ v.toList, p x) :
    (v.pmap f hp).head = f v.head (hp _ v.head_mem) := by
```

**Review by joneugster — COMMENTED** [review]
Thank you for the PR!

Only one comment. If you'd be willing to consider that refactor, that would be great
